US04831041
A mixture of 2-amino-3-(3-methoxymethoxybenzyloxy)pyridine (7.6 g) and 10% sulfuric acid (150 ml) was stirred at room temperature for 4 hours and the resulting precipitates were collected by filtration. The obtained sulfate was treated with an aqueous solution of sodium bicarbonate and the precipitates were collected by filtration, washed with water, and air-dried to give 2-amino-3-(3-hydroxybenzyloxy)pyridine (4.88 g).

reactant | 2-amino-3-(3-methoxymethoxybenzyloxy)pyridine | 7.6 g | NC1=NC=CC=C1OCC1=CC(=CC=C1)OCOC | C14H16N2O3
solvent | sulfuric acid | 150 ml | S(O)(O)(=O)=O | H2O4S
product | 2-amino-3-(3-hydroxybenzyloxy)pyridine | 4.88 g | NC1=NC=CC=C1OCC1=CC(=CC=C1)O | C12H12N2O2
